Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
rash
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo female presents from urgent care transferred for diffuse 
rash developing 2 weeks after starting Bactrim for sinusitis.  
 2 days prior to admission developed diffuse rash that is 
pruritic. Worse on stomach, thinks it started diffusely rather 
than in one area and then spread. She also has had fever, nausea 
with one episode of vomiting and lower abdominal ache.  
 Went to urgent care for eval and sent over for possible drug 
rxn eg dress.  

 
Past Medical History:
depression 
 
Social History:
Country of Origin: ___  
 Marital status: Single  
 Children: No  
 Lives with: Parents  
 Lives in: House  
 Work: ___
 Multiple partners: ___  
 ___ activity: Present  
 Sexual orientation: Male  
 Sexual Abuse: Denies  
 Domestic violence: Denies  
 Contraception: Condoms - Male  
 Tobacco use: Never smoker  
 Alcohol use: Present  
 drinks per week: 2  
 Recreational drugs Denies  
 (marijuana, heroin,  
 crack pills or  
 other):  
 Depression: Based on a PHQ-2 evaluation, the patient  
 does not report symptoms of depression  
 Exercise: Activities: gym ___  
 Diet: mod fat  
 Seat belt/vehicle Always  
 
Family History:
Mother Living ___  
 Father Living ___ THROMBOCYTOPENIA uncertain etiology  
 Sister Living ___  

 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
GENERAL -well appearing  
 HEENT - MMM no oral lesions  
 NECK - supple no LAd  
 CARDIAC - rrr no murmur  
 LUNGS - ctab  
 ABDOMEN - soft nontender nondistended  
 EXTREMITIES - rash as below, no swelling  
 NEUROLOGIC - a/o x3  
 SKIN - diffuse maculopapular rash most coalescent over anterior 
upper abdomen, less obvious but still present over extremities. 
small area of involvement of R palm. No involvement of soles. No 
oral lesions. No skin sloughing or ulcers.  

===========================
DISCHARGE PHYSICAL EXAM
===========================
Vitals:  97.8 PO 108 / 69 67 17 97 RA 
 GENERAL -well appearing female, lying comfortably in bed 
 HEENT - No oral ulcers/erosions, no facial edema  
 NECK - small, tender, mobile right cervical lymph nodes. Neck 
supple. 
 CARDIAC - RRR, no mrg 
 LUNGS - CTAB
 ABDOMEN - Soft, NDNT. Liver edge non-palpable. No splenic 
enlargement.
 EXTREMITIES - skin exam as below, no lower extremity edema, 
warm and well perfused 
 NEUROLOGIC - AOx3, MAE w/ purpose 
 SKIN - macular eruption resolved. 
 
Pertinent Results:
=======================
ADMISSION LABS
=======================
___ 08:55PM BLOOD WBC-3.8* RBC-4.07 Hgb-12.2 Hct-35.7 
MCV-88 MCH-30.0 MCHC-34.2 RDW-11.9 RDWSD-38.7 Plt ___
___ 08:55PM BLOOD Neuts-47 Bands-2 ___ Monos-12 
Eos-10* Baso-0 Atyps-3* ___ Myelos-0 AbsNeut-1.86 
AbsLymp-1.10* AbsMono-0.46 AbsEos-0.38 AbsBaso-0.00*
___ 08:55PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL
___ 08:55PM BLOOD ___ PTT-29.6 ___
___ 08:55PM BLOOD Plt Smr-LOW Plt ___
___ 08:55PM BLOOD Glucose-104* UreaN-9 Creat-0.7 Na-126* 
K-3.7 Cl-90* HCO3-20* AnGap-20
___ 08:55PM BLOOD ALT-174* AST-179* LD(___)-355* AlkPhos-96 
TotBili-0.3
___ 08:55PM BLOOD Albumin-4.4

================
IMAGING
================
None

==========
MICRO
=========
___ 8:59 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    10,000-100,000 CFU/mL. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___,
         ___. 

===================
DISCHARGE LABS
===================

___ 05:16AM BLOOD WBC-4.2 RBC-3.95 Hgb-11.6 Hct-34.4 MCV-87 
MCH-29.4 MCHC-33.7 RDW-11.9 RDWSD-38.5 Plt ___
___ 05:16AM BLOOD Neuts-35.8 ___ Monos-18.9* 
Eos-1.0 Baso-0.0 AbsNeut-1.06* AbsLymp-1.31 AbsMono-0.56 
AbsEos-0.03* AbsBaso-0.00*
___ 05:16AM BLOOD Plt ___
___ 05:16AM BLOOD Glucose-106* UreaN-10 Creat-0.5 Na-136 
K-4.2 Cl-98 HCO3-22 AnGap-20
___ 05:16AM BLOOD ALT-178* AST-105* LD(___)-246 AlkPhos-104 
TotBili-0.___ yo previously healthy F who was referred from urgent care for 
new rash, transaminitis, and eosinophilia two weeks after 
starting Bactrim for sinusitis. Dermatology was consulted who 
felt that the patient's presentation was consistent w/ DRESS and 
recommended starting patient on steroids: Solumedrol 1 mg/kG IV 
transitioned to predniosone 1mg/kg on discharge (day 1: ___. 
Patient to follow up with dermatology within 1 week of discharge 
to determine steroid course/taper. Patient was also started on 
omeprazole, Calcium, Vitamin D given plan for long steroid 
taper. PCP PPX with atovaquone was held given persistent 
transaminitis (and unable to prescribe Bactrim iso recent DRESS 
reaction). Bactrim was added to patient's allergy list. Hospital 
course complicated by vulvovaginal candidiasis, completed on 3 
day course of miconazole intravaginal capsules w/ symptom 
improvement.

#DRESS: Patient referred from urgent care for new rash, 
transaminitis, leukopenia and eosinophilia two weeks after 
starting Bactrim for sinusitis. Dermatology was consulted who 
felt that the patient's presentation was consistent w/ DRESS and 
recommended starting patient on steroids: Solumedrol 1 mg/kG IV 
transitioned to predniosone 1mg/kg on discharge (day 1: ___ w/ 
resolution of macular eruption, leukopenia and eosinophilia. 
Patient to follow up with dermatology within 1 week of discharge 
to determine steroid course/taper. Patient was also started on 
omeprazole, Calcium, Vitamin D given plan for long steroid 
taper. PCP PPX with atovaquone was held given persistent 
transaminitis (and unable to prescribe Bactrim iso recent DRESS 
reaction). Once transaminitis resolves, patient to be started on 
atovaquone as outpatient. Bactrim was added to patient's allergy 
list. Of note viral etiologies for macular eruption were ruled 
out: Hepatitis A, C negative. Hep B immune. HIV negative. RPR 
non-reactive. CMV and EBV pending at time of discharge. 

#Vulvo-vaginal Candidiasis: patient c/o vaginal pruritus, w/ 
several weeks of abx use for recent sinusitis. Completed 
miconazole intravaginal capsules x3 days w/ symptomatic 
improvement. 

#Asx Bacteruria: Urine Cx +Enterococcus. Asymptomatic, thus 
antibiotics were not started. 

Transitional Issues:
===============================
-Continue prednisone 60mg qday, course will be determined by 
outpatient dermatology follow up appointment w/ Dr. ___. 
___ 
-___ given lab slip to re-check CBC, BMP, LFTs; If 
resolution of tramsaminitis, please start patient on atovaquone 
for PCP PPX
-___/ urine CX +Enterococcus. Abx held given asymptomatic; 
if patient begins to develop symptoms of UTI, please consider 
treatment
-CMV, EBV labs pending at time of discharge. Please follow up.

# CODE: full code 
# CONTACT: mother ___ ___ 
 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Necon 0.5/35 (28) (norethindrone-ethin estradiol) 0.5-35 
mg-mcg oral DAILY 
2. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO Q24H 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
2.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  PredniSONE 60 mg PO DAILY 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*45 Tablet 
Refills:*0 
4.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 0.5 (One half) 
tablet(s) by mouth daily Disp #*15 Tablet Refills:*0 
5.  Necon 0.5/35 (28) (norethindrone-ethin estradiol) 0.5-35 
mg-mcg oral DAILY  
6.Outpatient Lab Work
DX: Allergy, unspecified (DRESS). ___ 
Please obtain CBC, BMP, AST, ALT, total bilirubin, LDH

Please send results to ___, MD
FAX: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
======================
DRESS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure being involved in your care.

Why you came in:
-You came in because you were having a rash 

What we found while you were here:
-We evaluated your blood tests, and felt that you were having an 
allergic reaction called DRESS to your Bactrim.
-We stopped your Bactrim, and started you on steroids for your 
DRESS. You will follow up with dermatology as an outpatient this 
week to decide how much longer you will be continuing the 
steroids.
-We have added Bactrim on your allergy list. Please be aware 
that you should not take Bactrim in the future. 

Your next steps:
-please take all your medications as indicated below
-Please get your labs rechecked 1 day prior to your dermatology 
appointment

We wish you well,
Your ___ Care Team
 
Followup Instructions:
___